US07192722B2
The wells of an enhanced binding 96 well polystyrene microtiter plate were coated with the IgG fraction of the antiserum raised to immunogen A (hapten A-BSA) (Example 19), diluted in 10 mM Tris, pH8.5 (125 μl/well). The appropriate antibody coating dilution was determined using standard ELISA checkerboard techniques. The plate was incubated for 2 hours at 37° C., washed 4 times with Tris buffered saline containing Tween 20 (TBST) and tapped dry. Standard solutions of ractopamine were prepared in TBST at 0, 0.05, 0.1, 0.5, 1, and 5 ng/ml, and 50 μl of each was added to the appropriate wells. 75 μl of conjugate A (hapten A-HRP) (Example 20), diluted in Tris buffer (pH 7.2) containing EDTA, D-mannitol, sucrose, thimerosal and BSA, was added to each of the wells. The appropriate dilution of conjugate was also determined using standard ELISA checkerboard techniques. The plate was incubated at 37° C. for 2 hours. Excess unbound conjugate was removed by washing 6 times over a 10 minute period with TBST. 125 μl of tetramethylbenzidine (TMB) substrate solution was added to each well of the plate that was then incubated for 15 to 20 minutes in the dark at room temperature. The reaction was terminated by addition of 125 μl 0.2M H2SO4 to each well. The absorbance was then measured at 450 nm using a microtiter plate reader. The data generated in the assay is presented in Table 1.

reactant | EDTA | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | D-mannitol | C([C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H14O6
reactant | sucrose | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
reactant | thimerosal | CC[Hg]SC1=CC=CC=C1C(=O)[O-].[Na+]
reactant | Tris | 10 mM | C(C(CO)(CO)N)O | C4H11NO3
reactant | Tris | pH 7.2 | C(C(CO)(CO)N)O | C4H11NO3
product | ractopamine | CC(CCC=1C=CC(=CC1)O)NCC(C=2C=CC(=CC2)O)O | C18H23NO3
